US04985588
Namely, 2,4-dichloro-5-fluoroacetophenone is subjected to a haloform reaction in a 12% sodium hypophosphite aqueous solution to obtain 2,4-dichloro-5-fluorobenzoic acid. Then, this benzoic acid is reacted with an alcohol or with a phenol in the presence of an acid catalyst to obtain the above-mentioned fluorine-containing benzoate.

reactant | 2,4-dichloro-5-fluoroacetophenone | CC(=O)C1=CC(=C(C=C1Cl)Cl)F | C8H5Cl2FO
reactant | sodium hypophosphite | [PH2](=O)[O-].[Na+]
product | 2,4-dichloro-5-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)Cl)F | C7H3Cl2FO2
